* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\Cell Charger\BuckConverter_RM.asc
V1 N002 0 100 Rser=0
M1 N003 Vs1 N002 N002 NMOS
L1 Vout N003 1.3m
C1 Vout 0 16.7µ
R1 Vout 0 20m
Vs1 Vs1 0 PULSE(0 5 0 .1n .1n .025m .1m)
XU1 0 N001 +5 -5 Vs2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
RI N001 Vs1 1k
RF Vs2 N001 1k
R2 N001 -5 1k
V2 +5 0 5
V3 -5 0 -5
D1 0 N003 D
.model D D
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25m 0
.lib UniversalOpAmp2.lib
.backanno
.end
