* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\Cell Charger\Draft1.asc
V1 N001 0 100 Rser=0
M1 N001 Vs1 N002 N002 NMOS
R1 N002 0 1000
Vs1 Vs1 0 PULSE(0 1000 0 .1n .1n .05m .1m)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m
.backanno
.end
