* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\Cell Charger\Draft3.asc
V1 N001 0 5
M1 Vout Vs1 N001 N001 NMOS
M2 Vout NC_01 0 0 NMOS
Vs1 Vs1 0 PULSE(0 5 0 .1n .1n .025m .1m)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25m 0
.backanno
.end
