* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\Cell Charger\Draft4.asc
V1 N001 0 100
M1 N002 Vs1 N001 N001 NMOS
Vs1 Vs1 0 PULSE(0 5 .005m .1n .1n .49m 1m)
Vs2 Vs2 0 PULSE(5 0 0 .1n .1n .5m 1m)
L1 N003 N002 1.3m
C1 N003 0 16.7µ
R1 N003 0 100
D1 0 N002 D
.model D D
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 0
.backanno
.end
