* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\VCU\PWM to Analog Filter.asc
V1 N001 0 PULSE(0 5 0 0 0 25u 50u)
C1 N002 0 0.2µ
R1 N002 N001 1800
C2 N003 0 0.2µ
R2 N003 N002 1800
.tran 1
.backanno
.end
